US09351974B2
Step d: Synthesis of 3-[(7R)-2-chloro-8-(cyclobutylmethyl)-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile
To a stirred solution of 3-[(7R)-2-chloro-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile (120 mg, 0.4 mmol) in anhydrous DMF (3 ml) was added cyclobutyl methyl bromide (119 mg, 0.8 mmol) at 0° C. under nitrogen. To the resulting solution was added sodium hydride (32 mg of 60% dispersion in oil, 0.8 mmol) at 0° C. The reaction was then allowed to warm up to rt in 20 min and then heated at 50° C. for 3 h. The reaction mixture was diluted with water (20 ml) and extracted with ethyl acetate (30 mL×3). The organic layers were combined, dried (Na2SO4) and evaporated to give a crude residue, which was then purified by silica gel flash chromatography (eluent: 2% methanol in dichloromethane) to give desired product (Yield: 41%). 1HNMR (300 MHz, CDCl3) δ 1.50 (d, J=6.9 Hz, 3H), 1.78-1.94 (m, 4H), 1.96-2.21 (m, 2H), 2.68-2.87 (m, 1H), 3.17 (q, J=6.9 Hz, 1H), 4.22-4.36 (m, 2H), 7.10 (s, 1H), 7.50 (d, J=7.8 Hz, 1H), 7.58 (s, 1H), 7.66-7.78 (m, 1H) and 7.79-7.81 (m, 1H).

reactant | 3-[(7R)-2-chloro-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | 0.4 mmol, 120 mg | ClC1=NC=2N[C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)C | C14H10ClN5O
reactant | cyclobutyl methyl bromide | 0.8 mmol, 119 mg | C1(CCC1)CBr | C5H9Br
reactant | sodium hydride | 0.8 mmol, 32 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 3-[(7R)-2-chloro-8-(cyclobutylmethyl)-7-methyl-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | Yield: 41% | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)C)CC1CCC1 | C19H18ClN5O
